US09278922B2
N-(4-nitrobenzyl)aniline
Combined aniline (6.16 g, 66.2 mmol) and 4-nitrobenzaldehyde (10.0 g, 66.2 mmol) in MeOH (165 mL) and toluene (165 mL), and heated to 60° C. for 3 h. Cooled the mixture to room temperature, added sodium borohydride (5.01 g, 132 mmol) portionwise, and then stirred at room temperature for 1 h. Added sat NaHCO3 and stirred for 1 h. Added water and extracted with EtOAc. Combined extracts were washed with brine, dried (MgSO4) filtered, and evaporated to an amber oil that was purified by chromatography on silica gel, eluting with CH2Cl2 to give the title compound (9.0 g, 59.6% yield).

reactant | aniline | 66.2 mmol, 6.16 g | NC1=CC=CC=C1 | C6H7N
reactant | 4-nitrobenzaldehyde | 66.2 mmol, 10.0 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | sodium borohydride | 132 mmol, 5.01 g | [BH4-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | MeOH | 165 mL | CO | CH4O
solvent | toluene | 165 mL | C1(=CC=CC=C1)C | C7H8
product | N-(4-nitrobenzyl)aniline | 9.0 g, 59.6% yield | [N+](=O)([O-])C1=CC=C(CNC2=CC=CC=C2)C=C1 | C13H12N2O2
